US07625908B2
N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-(cyclopropylmethyl)acetamide
The procedure described in Example 5 was repeated using N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-{2-[(cyclopropylmethyl)amino]ethoxy}quinazolin-4-amine and acetyl chloride to give the title compound in 58% yield; NMR spectrum (DMSO-d6) 0.16-0.27 (m, 2H), 0.36-0.52 (m, 2H), 0.97-1.06 (m, 1H), 2.00 (s, 3H), 3.24-3.29 (m, 2H), 3.93-4.02 (m, 2H), 4.33-4.56 (m, 2H), 5.31 (s, 2H), 7.13-7.18 (m, 1H), 7.21-7.29 (m, 1H), 7.31-7.40 (m, 2H), 7.54-7.62 (m, 2H), 7.69-7.79 (m, 1H), 7.86-7.92 (m, 1H), 7.93-7.96 (m, 1H), 8.44 (s, 1H), 8.61 (d, 1H), 9.81 (s, 1H); Mass spectrum MH+ 518.

reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-{2-[(cyclopropylmethyl)amino]ethoxy}quinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCNCC1CC1 | C26H26ClN5O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-(cyclopropylmethyl)acetamide | 58% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCN(C(C)=O)CC1CC1 | C28H28ClN5O3
